US04299831
Using the procedure of Step A of Example 8, 65 g of p-isopropylaniline and 121 g of trifluoroacetic acid anhydride were reacted to obtain 109 g of N-(4-isopropylphenyl)-2,2,2-trifluoro-acetamide melting at 98° C.

reactant | p-isopropylaniline | 65 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | trifluoroacetic acid anhydride | 121 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | N-(4-isopropylphenyl)-2,2,2-trifluoro-acetamide | 109 g | C(C)(C)C1=CC=C(C=C1)NC(C(F)(F)F)=O | C11H12F3NO
